US07452908B2
Synthesis of methyl 6-{(tert-butoxycarbonyl)amino}-hexanoate
1.28 Grams of 6-{(tert-butoxycarbonyl)amino}hexanoic acid was dissolved in a liquid mixture of 9 ml of chloroform and 3 ml of methanol. To the solution 1.27 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide monohydrochloride and 7 mg of 4-dimethylaminopyridine were successively added at room temperature, followed by 2 hours' stirring at the same temperature. The reaction liquid was diluted with chloroform, washed successively with saturated aqueous sodium bicarbonate solution and saturated aqueous ammonium chloride solution, and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, 1.03 g of the title compound was obtained.

reactant | 6-{(tert-butoxycarbonyl)amino}hexanoic acid | C(C)(C)(C)OC(=O)NCCCCCC(=O)O | C11H21NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide monohydrochloride | 1.27 g | Cl.C(C)N=C=NCCCN(C)C
solvent | chloroform | 9 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 3 ml | CO | CH4O
catalyst | 4-dimethylaminopyridine | 7 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl 6-{(tert-butoxycarbonyl)amino}-hexanoate | 1.03 g | C(C)(C)(C)OC(=O)NCCCCCC(=O)OC | C12H23NO4
